US08455646B2
Preparation of (3-fluoro-phenyl)-phenylamino-acetic acid (I98)
(3-Fluoro-phenyl)-phenylamino-acetic acid methyl ester (I97) (229 mg, 0.88 mmol) and lithium hydroxide hydrate (74.1 mg, 1.77 mmol) are dissolved in THF/water (6 mL/2 mL) and stirred at RT for 2 hours. THF is evaporated, the resulting basic aqueous solution is acidified till pH 1 with 1M HCl. The precipitate is recovered by suction filtration and washed with 1M HCl. The compound is dried at 40° C. under vacuum overnight to get intermediate I146 as a white solid (186 mg, 75% yield).

reactant | (3-Fluoro-phenyl)-phenylamino-acetic acid methyl ester | 0.88 mmol, 229 mg | COC(C(NC1=CC=CC=C1)C1=CC(=CC=C1)F)=O | C15H14FNO2
reactant | lithium hydroxide hydrate | 1.77 mmol, 74.1 mg | O.[OH-].[Li+]
solvent | THF water | 6 mL | C1CCOC1.O
product | (3-fluoro-phenyl)-phenylamino-acetic acid | 186 mg, 75% yield | FC=1C=C(C=CC1)C(C(=O)O)NC1=CC=CC=C1 | C14H12FNO2
